### PR TITLE
[Merged by Bors] - chore(Data/Finsupp/Fin): add Finsupp.cons_support

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Fin.lean [hunk 1]
```diff
@@ -92,4 +92,11 @@ theorem cons_ne_zero_iff : cons y s ≠ 0 ↔ y ≠ 0 ∨ s ≠ 0 := by
   rw [h', c, Finsupp.cons_zero_zero]
 #align finsupp.cons_ne_zero_iff Finsupp.cons_ne_zero_iff
 
+lemma cons_support : (s.cons y).support ⊆ insert 0 (s.support.map (Fin.succEmb n).toEmbedding) := by
```
Comment (urkud) [inline Mathlib/Data/Finsupp/Fin.lean:95]: Do we have a similar lemma about `Fin.cons`? IMHO, lemmas about `Finsupp.cons` should be `mod_cast (lemma about Fin.cons)`, if possible.

Comment (jcommelin) [reply Mathlib/Data/Finsupp/Fin.lean:95]: What would the lemma about `Fin.cons` be? The ingredients in the statement seem quite `Finsupp`-specific.

**Comment by ocfnash** [comment]
Thanks!

bors merge
